US08530675B2
Treatment of tetrachlorophthalic anhydride (5 g, 17.49 mmol) and 4-chlororesorcinol (6.32 g, 43.73 mmol), according to the procedure described in Example 1 Step 1, provided 10.31 g of crude product. Suspension of a 9.25 g portion of this in DMF:water (1:1) followed by filtration, provided 9.70 g (2:1 DMF complex 17.16 mmol, 92.3% yield) of 2′,4,5,6,7,7′-hexachloro-3′,6′-dihydroxy-3H-spiro[isobenzofuran-1,9′-xanthen]-3-one that was isolated as an orange solid. 1H NMR (300 MHz; DMSO d6) δ 11.13 (S, 2H), 7.31 (s, 2H), 6.89 (s, 2H).

reactant | tetrachlorophthalic anhydride | 17.49 mmol, 5 g | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
reactant | 4-chlororesorcinol | 43.73 mmol, 6.32 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
solvent | DMF water | CN(C)C=O.O
product | 2′,4,5,6,7,7′-hexachloro-3′,6′-dihydroxy-3H-spiro[isobenzofuran-1,9′-xanthen]-3-one | 17.16 mmol, 9.70 g, 92.3% yield | ClC1=CC=2C3(C4=CC(=C(C=C4OC2C=C1O)O)Cl)OC(C1=C(C(=C(C(=C13)Cl)Cl)Cl)Cl)=O | C20H6Cl6O5
